US04670448
3-[3-[[1-Methyl-3-[(phenylsulphonyl)methyl]-1H-1,2,4-triazol-5-yl]amino]propoxy]benzaldehyde.
A mixture of 3-[3-(1,3-dioxolan-2-yl)phenoxy]propanamine (2.3 g) and methyl-1-methyl-2-(phenylmethylene)-N-[2-(phenylsulphonyl)acetyl]hydrazine carboximidothioate (4.0 g) was heated at 60° under water pump vacuum for 3 h. The reaction mixture was dissolved in toluene (100 ml), 5N hydrochloric acid (100 ml) and acetone (50 ml) and stirred at room temperature for 18 h. The aqueous layer was basified to pH 9 with potassium carbonate and extracted with ethyl acetate. The organic extract was evaporated to give the title compound as an amber gum (3.0 g) T.l.c. Methanol; Rf 0.8.

reactant | 3-[3-(1,3-dioxolan-2-yl)phenoxy]propanamine | 2.3 g | O1C(OCC1)C=1C=C(OCCCN)C=CC1 | C12H17NO3
reactant | methyl-1-methyl-2-(phenylmethylene)-N-[2-(phenylsulphonyl)acetyl]hydrazine carboximidothioate | 4.0 g | CSC(=NC(CS(=O)(=O)C1=CC=CC=C1)=O)N(N=CC1=CC=CC=C1)C | C18H19N3O3S2
reactant | hydrochloric acid | 5N, 100 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-[3-[[1-Methyl-3-[(phenylsulphonyl)methyl]-1H-1,2,4-triazol-5-yl]amino]propoxy]benzaldehyde | 3.0 g | CN1N=C(N=C1NCCCOC=1C=C(C=O)C=CC1)CS(=O)(=O)C1=CC=CC=C1 | C20H22N4O4S
